US05847159
Preparation of 1,2,3,4-tetrahydro-6,7-dimethyl-2-[2-(1-pyrrolidinyl)ethyl]-1-naphthalenol
To a solution of 1-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalenyl)acetyl]pyrrolidine (9.5 g) in toluene (100 ml) was added dropwise with stirring a 70% solution of sodium bis(2-methoxyethoxy)aluminum hydride in toluene (29.0 g) under ice-cooling, and the mixture was stirred at the same temperature for one hour, and stirred at 25° C. for three hours. The reaction mixture was cooled again with ice, and thereto was added dropwise a saturated aqueous sodium potassium tartrate solution (30 ml), and the mixture was stirred at the same temperature for 30 minutes in order to decompose the excess amount of the reducing agent. The organic layer was separated, washed successively with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (eluent; toluene:ethyl acetate=10:1), and the fractions containing the desired compound were combined, and concentrated under reduced pressure to give the desired compound (8.5 g) as an oily product.

reactant | 1-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalenyl)acetyl]pyrrolidine | 9.5 g | CC=1C=C2CCC(C(C2=CC1C)=O)CC(=O)N1CCCC1 | C18H23NO2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | sodium potassium tartrate | 30 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 29.0 g | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4-tetrahydro-6,7-dimethyl-2-[2-(1-pyrrolidinyl)ethyl]-1-naphthalenol | 8.5 g | CC=1C=C2CCC(C(C2=CC1C)O)CCN1CCCC1 | C18H27NO
